US06686352B2
Step 4: 3-Azidomethyl-5-methyl-isoxazole
To a solution of the 3-bromomethyl-5-methyl-isoxazole in acetone is added NaN3 at rt. The reaction mixture is then stirred for about 48 h. Then, the reaction mixture is poured into water and extracted with EtOAc, dried and evaporated.

reactant | 3-bromomethyl-5-methyl-isoxazole | BrCC1=NOC(=C1)C | C5H6BrNO
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 3-Azidomethyl-5-methyl-isoxazole | N(=[N+]=[N-])CC1=NOC(=C1)C | C5H6N4O
